US06057269
3-(4-Chloro-3-ethoxyaminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (compound No. 1.02)
Borane-pyridine complex (3 ml) and 10-percent hydrochloric acid (30 ml) were added dropwise in succession at 0° C. to a solution of 3-(4-chloro-3-ethoxyiminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (3.8 g) in 40 ml of ethanol. In the course of 16 hours, another 12 ml of boranepyridine complex were added. The solution was subsequently stirred for 4 hours at reflux temperature, whereupon the solvent was distilled off. The residue was taken up in 200 ml of dichloromethane. The organic phase was washed twice using 50 ml of water in each case, then dried over sodium sulfate, and finally concentrated. This gave the title compound as an oil.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 3-(4-chloro-3-ethoxyiminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 3.8 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=NOCC | C15H13ClF3N3O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(4-Chloro-3-ethoxyaminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CNOCC | C15H15ClF3N3O3
